US06498169B1
Synthesis of 4-Aminomethyl-2-(3,4,5-trimethoxyphenyl)pyridine
To a suspension of N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]phthalimide (1.16 g) in ethanol (30 mL) was added hydrazine monohydrate (1 mL). The mixture was refluxed for 3 hours. After cooling, the precipitates were filtered off. The filtrate was evaporated and the residue was dissolved in chloroform. The solution was washed with saturated aqueous sodium hydrogen carbonate and brine, dried over anhydrous magnesium sulfate and evaporated to give the title compound as pale yellow oil.

reactant | N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]phthalimide | 1.16 g | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C23H20N2O5
reactant | hydrazine monohydrate | 1 mL | O.NN
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 4-Aminomethyl-2-(3,4,5-trimethoxyphenyl)pyridine | NCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H18N2O3
